US06180622B2
3-Hydroxymethyl-5-methylimidazo[5,1-b]thiazolehydrochloride (1.10 g) is suspended in 20 ml of THF, 0.7 ml of thionyl chloride is added thereto, and the mixture is stirred at 85° C. for 3.5 hr. The solvent is removed by evaporation to give 1.10 g of 3-chloromethyl-5-methylimidazo[5,1-b]thiazolehydrochloride. This compound is dissolved in 7 ml of DMF, 1.36 g of triphenylphosphine is added thereto, and the mixture is stirred at 83° C. for 15 hr and at 90° C. for 4 hr. The resultant precipitate is collected by filtration and washed with diethyl ether to give 1.87 g of (5-methylimidazo[5,1-b]thiazol-3-yl)methyltriphenylphosphonium chloride hydrochloride.

reactant | 3-Hydroxymethyl-5-methylimidazo[5,1-b]thiazolehydrochloride | 1.10 g | Cl.OCC=1N2C(SC1)=CN=C2C
reactant | thionyl chloride | 0.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-chloromethyl-5-methylimidazo[5,1-b]thiazolehydrochloride | 1.10 g | Cl.ClCC=1N2C(SC1)=CN=C2C | InChI=1S/C7H7ClN2S.ClH/c1-5-9-3-7-10(5)6(2-8)4-11-7;/h3-4H,2H2,1H3;1H
